US07560551B2
Step 1. Preparation of 6,7-Dihydropyrazino[2,3-d]pyridazine-5,8-dione
The title compound was prepared according to a literature procedure (Paul, D. B. Aust. J Chem. 1974, 27, 1331). As described therein, 2,3-pyrazinedicarboxylic anhydride (5.00 g, 33.3 mmol), hydrazine hydrate (2.8 g, 56 mmol), and acetic acid (40.4 ml, 33.3 mmol) were mixed at RT. White precipitated crashed out. The reaction was heated under reflux for approximately 20 min. The reaction was cooled to RT and the solids were filtered, washed with water, and dried under vacuum. The product, 6,7-dihydropyrazino[2,3-d]pyridazine-5,8-dione was obtained as white solid. 1H NMR (Bruker, 400 MHz, D2O) ppm: 8.87 (s, 2H).

reactant | 2,3-pyrazinedicarboxylic anhydride | 33.3 mmol, 5.00 g | N1=C2C(=NC=C1)C(=O)OC2=O | C6H2N2O3
reactant | hydrazine hydrate | 56 mmol, 2.8 g | O.NN
reactant | acetic acid | 33.3 mmol, 40.4 ml | C(C)(=O)O | C2H4O2
product | 6,7-dihydropyrazino[2,3-d]pyridazine-5,8-dione | N1=CC=NC2=C1C(NNC2=O)=O | C6H4N4O2
